US08222416B2
To a suspension of 1-benzenesulfonyl-6-methoxy-1H-pyrrolo[2,3-b]pyridine (2.0 g, 6.74 mmol) in dry tetrahydrofuran (60 mL) at −78° C. was added freshly prepared lithium diisopropylamide [prepared by adding 1.6 M n-butyllithium in n-hexane (6.6 mL, 10.42 mmol) to a 0° C. solution of diisopropylamine (1.12 g, 11.1 mmol) in dry tetrahydrofuran (20 mL)] dropwise. The mixture was stirred at −78° C. for 20 min and then treated with cyclopentanecarbaldehyde (1.56 g, 13.8 mmol) dropwise. The resulting mixture was stirred at −78° C. for 1 h and quenched with brine. The mixture was extracted with ethyl acetate (2×100 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash column chromatography (silica gel from QingDao, 200-300 mesh, 25% ethyl acetate/hexanes) afforded 1-(-benzenesulfonyl-6-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanol as a white solid (2.54 g, 91%): LC/MS m/e calcd for C21H24N2O4S [M+H]+ 401.50, observed 401.2.

reactant | 1-benzenesulfonyl-6-methoxy-1H-pyrrolo[2,3-b]pyridine | 6.74 mmol, 2.0 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC(=CC2)OC | C14H12N2O3S
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | n-hexane | 10.42 mmol, 6.6 mL | CCCCCC | C6H14
reactant | diisopropylamine | 11.1 mmol, 1.12 g | C(C)(C)NC(C)C | C6H15N
reactant | cyclopentanecarbaldehyde | 13.8 mmol, 1.56 g | C1(CCCC1)C=O | C6H10O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-(-benzenesulfonyl-6-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanol | 2.54 g, 91% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC(=CC2)OC)C(CC2CCCC2)O | C21H24N2O4S
